US07745475B2
3-[(1S)-2-Methoxy-(1-methylethyl)oxy]-5-{[phenylmethyl]oxy}benzoic acid
A solution of methyl 3-[(1S)-2-methoxy-(1-methylethyl)oxy]-5-{[phenylmethyl]oxy}benzoate (77.4 mmol) in a mixture of THF (232 mL) and methanol (232 mL) was treated with a solution of 2M sodium hydroxide (232 mmol), and the reaction mixture stirred for 4 hours at ambient temperature. The resulting solution was diluted with water (250 mL) and most of the organic solvent removed in vacuo. The resulting suspension was washed with diethyl ether (3×200 mL) and the organic washings discarded. The resulting aqueous solution was acidified to pH4 with 2M hydrochloric acid solution and extracted with ethyl acetate (2×200 mL). The extracts were combined, washed with brine, dried (MgSO4), and evaporated to give the desired compound (99% yield).

reactant | methyl 3-[(1S)-2-methoxy-(1-methylethyl)oxy]-5-{[phenylmethyl]oxy}benzoate | 77.4 mmol | COC[C@H](C)OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1 | C19H22O5
reactant | sodium hydroxide | 232 mmol, 2M | [OH-].[Na+]
solvent | THF | 232 mL | C1CCOC1 | C4H8O
solvent | methanol | 232 mL | CO | CH4O
solvent | water | 250 mL | O | H2O
product | 3-[(1S)-2-Methoxy-(1-methylethyl)oxy]-5-{[phenylmethyl]oxy}benzoic acid | 99% yield | COC[C@H](C)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C18H20O5
